US06245790B1
To a solution of 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-2-methylphenol (894 mg) and 2,6-lutidine (0.494 ml) in CH2Cl2 (18 ml) was added trifluoromethanesulfonic anhydride (0.534 ml) at 5° C. and the mixture was stirred for 1 hour. The solvent was removed in vacuo and the residue was diluted with EtOAc, washed with water, 1N HCl, water, and brine, dried over magnesium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 15:1) to give 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-2-methylphenyl trifluoromethanesulfonate (960.8 mg) as an oil.

reactant | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-2-methylphenol | 894 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C(=C(C=CC1)O)C | C29H27NO2
reactant | 2,6-lutidine | 0.494 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 0.534 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 18 ml | C(Cl)Cl | CH2Cl2
product | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-2-methylphenyl trifluoromethanesulfonate | 960.8 mg | FC(S(=O)(=O)OC1=C(C(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C)(F)F | C30H26F3NO4S
